US06541423B1
4.1 2-Methylamino-4-methylbenzothiazole-5-carboxylic Acid
99 g of 3-amino-2-methylbenzoic acid (0.655 mol) were initially charged in 500 ml of acetic acid and, at 80° C,. admixed with 51 g of methyl isothiocyanate (7 mol) in 100 ml of acetic acid. After 2 h, 106 g of bromine (0.66 mol) in 20 ml of acetic acid were added dropwise at 50° C. The mixture was subsequently heated at about 100° C. for 2 h and, after the reaction had ended, allowed to cool. The precipitate was filtered off, the filtrate was concentrated to about 50 ml and the remaining filtrate and the precipitate were added to water. The aqueous phase was adjusted to pH 5 and the precipitate was filtered off at 8° C. It was subsequently washed with water and dried. Yield: 66 g (42%).

reactant | 3-amino-2-methylbenzoic acid | 0.655 mol, 99 g | NC=1C(=C(C(=O)O)C=CC1)C | C8H9NO2
reactant | methyl isothiocyanate | 7 mol, 51 g | CN=C=S | C2H3NS
reactant | bromine | 0.66 mol, 106 g | BrBr | Br2
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 2-Methylamino-4-methylbenzothiazole-5-carboxylic Acid | CNC=1SC2=C(N1)C(=C(C=C2)C(=O)O)C | C10H10N2O2S
